US06083961
To a solution of 4-benzyloxy-2-(1-hydroxyethyl)-1-methyl-1H-benzimidazole (87.0 mg) in dichloromethane (3 ml) was added manganese dioxide (870 mg) at 0° C. under nitrogen atmosphere, and the mixture was stirred for 30 minutes at 0° C. and then for 1.5 hours at ambient temperature. The reaction mixture was purified by silica gel column chromatography (ethyl acetate:n-hexane=3:1, v/v) to give 2-acetyl-4-benzyloxy-1-methyl-1H-benzimidazole (74.2 mg).

reactant | 4-benzyloxy-2-(1-hydroxyethyl)-1-methyl-1H-benzimidazole | 87.0 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)C(C)O)C | C17H18N2O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 870 mg | [O-2].[O-2].[Mn+4]
product | 2-acetyl-4-benzyloxy-1-methyl-1H-benzimidazole | 74.2 mg | C(C)(=O)C1=NC2=C(N1C)C=CC=C2OCC2=CC=CC=C2 | C17H16N2O2
